US06589970B2
A mixture of 2-butyl-benzofuran-3-carboxylic acid [6-hydroxy-5-(4-methoxy-phenyl)-naphthalen-2-ylmethyl]-amide (301 mg, 0.63 mmol), prepared in the previous step, bromoacetonitrile (52 μL, 0.75 mmol) and potassium carbonate (434 mg, 3.14 mmol) in 20 mL of DMF was stirred under nitrogen at room temperature for 21 h (overnight). The reaction was diluted with ethyl acetate, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 2-butyl-benzofuran-3-carboxylic acid [6-cyanomethoxy-5-(4-methoxy-phenyl)-naphthalen-2-ylmethyl]-amide (325 mg, 99%) as a brown solid, mp 139-142° C.

reactant | 2-butyl-benzofuran-3-carboxylic acid [6-hydroxy-5-(4-methoxy-phenyl)-naphthalen-2-ylmethyl]-amide | 0.63 mmol, 301 mg | OC=1C(=C2C=CC(=CC2=CC1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC)C2=CC=C(C=C2)OC | C31H29NO4
reactant | bromoacetonitrile | 0.75 mmol, 52 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 3.14 mmol, 434 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl-benzofuran-3-carboxylic acid [6-cyanomethoxy-5-(4-methoxy-phenyl)-naphthalen-2-ylmethyl]-amide | 325 mg, 99% | C(#N)COC=1C(=C2C=CC(=CC2=CC1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC)C2=CC=C(C=C2)OC | C33H30N2O4
